US06498169B1
Synthesis of 4-[N-(4-Butylphenyl)-N-[3-(3,4,5-trimethoxyphenyl)benzyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Dihydrochloride
4-(4-Butylanilino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine (147 mg) and 3-(3,4,5-trimethoxyphenyl)benzyl chloride (114 mg) were condensed in the same manner as described in Example 9. The title compound was obtained as yellow powder after converting a free base to a dihydrochloride.

reactant | 4-(4-Butylanilino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | 147 mg | C(CCC)C1=CC=C(NC2CCN(CC2)CC2=CC(=NC=C2)C2=CC(=C(C(=C2)OC)OC)OC)C=C1 | C30H39N3O3
reactant | 3-(3,4,5-trimethoxyphenyl)benzyl chloride | 114 mg | COC=1C=C(C=C(C1OC)OC)C=1C=C(CCl)C=CC1 | C16H17ClO3
product | 4-[N-(4-Butylphenyl)-N-[3-(3,4,5-trimethoxyphenyl)benzyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Dihydrochloride | Cl.Cl.C(CCC)C1=CC=C(C=C1)N(CC1=CC(=CC=C1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C46H55N3O6.2ClH/c1-8-9-11-32-14-16-38(17-15-32)49(31-33-12-10-13-35(24-33)36-26-41(50-2)45(54-6)42(27-36)51-3)39-19-22-48(23-20-39)30-34-18-21-47-40(25-34)37-28-43(52-4)46(55-7)44(29-37)53-5;;/h10,12-18,21,24-29,39H,8-9,11,19-20,22-23,30-31H2,1-7H3;2*1H
